US04157399
34.2 g (0.13 mol) of 3-formamido-3-methylamino-2-phenyl-benzo(b)thiophene are refluxed with stirring for 4 hours with 300 milliliters of HCl at 25%. After cooling, it is diluted in water, made alkaline by sodium hydroxide solution and stirred with CH2Cl2. After the organic phase has been extracted several times 2 N NaOH 7.4 g (26% of theory) of 2-phenyl-thioindole are isolated. By evaporating the solution of CH2Cl2 dried over K2CO3, the 3-methylamino-2-phenyl-benzo(b)thiophene is obtained in the form of a crude oily product. It is dissolved in a little CHCl3 and converted into the hydrochloride by hydrochloric gas: 20.2 g (57% of theory) of colourless prisms in a mixture of ethanol and ether, decomposition from 198° C. (in a sealed tube).

reactant | 3-formamido-3-methylamino-2-phenyl-benzo(b)thiophene | 0.13 mol, 34.2 g | C(=O)NC1(C2=C(SC1C1=CC=CC=C1)C=CC=C2)NC | C16H16N2OS
reactant | HCl | 300 milliliters | Cl | ClH
reactant | sodium hydroxide | [OH-].[Na+]
reactant | CH2Cl2 | C(Cl)Cl | CH2Cl2
solvent | water | O | H2O
product | 3-methylamino-2-phenyl-benzo(b)thiophene | CNC=1C2=C(SC1C1=CC=CC=C1)C=CC=C2 | C15H13NS
